US07511144B2
To a solution of 220 g (1.19 mmol) of 3-(4-methyltetrahydropyran-4-yl)acrylic acid methyl ester in methanol (15 mL) was added 40 mg of palladium-carbon, replaced with hydrogen gas, and then stirred for 12 hours at room temperature. After the reaction mixture was filtered through Celite, the solvent was removed under a reduced pressure. The obtained residue was purified by column chromatography (silica gel 20 g, developing solvent: ethyl acetate) to obtain 222 mg (yield 100%) of 3-(4-methyltetrahydropyran-4-yl)propionic acid methyl ester (IX-144). Its physical property is shown below.

reactant | 3-(4-methyltetrahydropyran-4-yl)acrylic acid methyl ester | 1.19 mmol, 220 g | COC(C=CC1(CCOCC1)C)=O | C10H16O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium-carbon | 40 mg | [C].[Pd]
product | 3-(4-methyltetrahydropyran-4-yl)propionic acid methyl ester | 222 mg, yield 100% | COC(CCC1(CCOCC1)C)=O | C10H18O3
